US08426604B2
[3-({5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-4-oxo-4,5-dihydro-thiazol-2-yl}-methyl-amino)-2-hydroxy-propyl]-carbamic acid tert-butyl ester was prepared from 5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-propylsulfanyl-thiazolidin-4-one and (2-Hydroxy-3-methylamino-propyl)-carbamic acid tert-butyl ester following General Procedure

reactant | 5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-propylsulfanyl-thiazolidin-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(NC(S2)SCCC)=O)C=C1)C(F)(F)F | C22H19ClF3N3OS2
reactant | (2-Hydroxy-3-methylamino-propyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(CNC)O)=O | C9H20N2O3
product | [3-({5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-4-oxo-4,5-dihydro-thiazol-2-yl}-methyl-amino)-2-hydroxy-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(CN(C)C=1SC(C(N1)=O)=CC=1C=C2C=NN(C2=CC1)CC1=C(C=C(C=C1)Cl)C(F)(F)F)O)=O | C28H29ClF3N5O4S
